US08541448B2
To 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethanamine (300 mg, 1.51 mmol, 1.00 equiv) in DCM (10 mL) was added TEA (375 mg, 3.00 equiv) followed by the portionwise addition of 3-(6,8-dichloro-2-ethyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride (500 mg, 1.23 mmol, 1.00 equiv). The resulting solution was stirred for 1 h at room temperature and then concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:2) to afford 0.4 g (41%) of N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-ethyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide as yellow oil.

reactant | 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethanamine | 1.51 mmol, 300 mg, 1.00 equiv | N(=[N+]=[N-])CCOCCOCCOCCN | C8H18N4O3
reactant | 3-(6,8-dichloro-2-ethyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride | 1.23 mmol, 500 mg, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)CC)C=1C=C(C=CC1)S(=O)(=O)Cl | C17H16Cl3NO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-ethyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide | 0.4 g, 41% | N(=[N+]=[N-])CCOCCOCCOCCNS(=O)(=O)C1=CC(=CC=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)CC | C25H33Cl2N5O5S
